US06573293B2
5-(5-Dimethylsulfamoyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide (90 mg, 0.38 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl) amide (100 mg) to give 80 mg (43%) of the title compound as a yellow solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide | 0.38 mmol, 90 mg | CN(S(=O)(=O)C=1C=C2CC(NC2=CC1)=O)C | C10H12N2O3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl) amide | 100 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 5-(5-Dimethylsulfamoyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 80 mg, 43% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)S(N(C)C)(=O)=O)=O)C)CC | C24H33N5O4S
